US04866089
Preparation of 7-morpholinyl-ethoxy-2,2-dimethyl-4-chromanone
In 100 ml of methyl-ethyl-ketone 3.8 g (20 millimoles) of 7-hydroxy-2,2-dimethyl-4-chromanone are dissolved, whereupon 8.3 g (60 millimoles) of potassium carbonate, 0.5 g potassium iodide and thereafter 4.6 g (25 millimoles) of morpholinyl-ethyl-chloride hydrochloride are added and the reaction mixture is heated to boiling for 10 hours. The reaction having been completed the reaction mixture is cooled, the inorganic salt filtered off, washed twice with 20 ml of acetone each and the solvent is removed. The residue is treated with 100 ml of water. Thus 5.2 g of the desired compound are obtained in the form of white crystals, yield 85.3%. Mp.: 61°-63° C.

reactant | methyl-ethyl-ketone | 20 millimoles, 100 ml, 3.8 g | CC(=O)CC | C4H8O
reactant | potassium carbonate | 60 millimoles, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | morpholinyl-ethyl-chloride hydrochloride | 25 millimoles, 4.6 g | Cl.N1(CCOCC1)CCCl
reactant | 7-hydroxy-2,2-dimethyl-4-chromanone | OC1=CC=C2C(CC(OC2=C1)(C)C)=O | C11H12O3
product | 7-morpholinyl-ethoxy-2,2-dimethyl-4-chromanone | 5.2 g, yield 85.3% | N1(CCOCC1)C1=CC=C2C(C(C(OC2=C1)(C)C)OCC)=O | C17H23NO4
